US08486962B2
2-methyl-2-(4-nitro-phenyl)-propionitrile was dissolved in ethyl acetate (20 ml) and treated with stannous chloride dihydrate (3.52 g, 15.86 mmol). After stirring overnight at room temperature, the reaction mixture was basified with aqueous sodium carbonate. The organic layer was separated, washed with water, dried and concentrated to oil. The crude compound was purified by column chromatography over silica gel using ethyl acetate/pet ether (1:9) as eluent to give 2-(4-aminophenyl)-2-methyl propionitrile (0.45 g, 89%) as oil.

reactant | 2-methyl-2-(4-nitro-phenyl)-propionitrile | CC(C#N)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H10N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-aminophenyl)-2-methyl propionitrile | 0.45 g, 89% | NC1=CC=C(C=C1)C(C#N)(C)C | C10H12N2
